data/rdb19/train.csv
rxn,smiles,ea
2892,[C:16]([C:17]([O:18][C:19](=[O:20])[C:21]([H:22])[C:23]([C:24]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:25])([H:26])[H:27].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:4]([O:5][C:21]([C:19]([O:18][C:17]([C:16]([H:25])([H:26])[H:27])([H:28])[H:29])=[O:20])([H:22])[C:23]([C:24]([H:32])([H:33])[H:34])([H:30])[H:31])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],29.32610352098709
1066,[C:14]([C:15]([C:16]([C:17]([H:30])([H:31])[H:32])([c:18]1[c:19]([H:33])[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]1[H:37])[H:29])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11]>>[C:14]([C:15]([C:16]([C:17]([H:30])([H:31])[H:32])([c:18]1[c:19]([H:33])[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]1[H:37])[H:29])[H:27])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([H:4])([H:5])[H:28])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11],19.71736892953049
2117,[C:11]([C:12]([C:13]([H:14])[H:15])([c:16]1[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]([H:29])[c:21]1[H:30])[H:25])([H:22])([H:23])[H:24].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[C:11]([C:12](=[C:13]([H:14])[H:15])[c:16]1[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]([H:29])[c:21]1[H:30])([H:22])([H:23])[H:24].[N:1]([C:2](=[O:3])[C:4]([C:5]([H:9])[H:10])([H:8])[H:25])([H:6])[H:7],31.08374770556111
2698,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])[C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:20]([C:21]([C:22](=[C:23]([H:30])[H:31])[H:29])([H:27])[H:28])([H:24])([H:25])[H:26]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])([C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])[H:25])([H:13])[H:14])([H:10])([H:11])[H:12].[C:20]([C:21]([C:22](=[C:23]([H:30])[H:31])[H:29])([H:27])[H:28])([H:24])[H:26],25.975418052752502
5078,[C:11]([C:12]([C:13]([H:14])[H:15])([N:16]([C:17](=[O:18])[H:24])[H:23])[H:22])([H:19])([H:20])[H:21].[C:1]([O:2][C:3](=[C:4]([H:9])[H:10])[H:8])([H:5])([H:6])[H:7]>>[C:1]([O:2][C:13]([C:12]([C:11]([H:19])([H:20])[H:21])([N:16]([C:17](=[O:18])[H:24])[H:23])[H:22])([H:14])[H:15])([H:5])([H:6])[H:7].[C:3](=[C:4]([H:9])[H:10])[H:8],62.615791447111405
1093,[C:14]([C:15]([C:16]([C:17]([H:27])([H:28])[H:29])([N:18]([C:19](=[O:20])[H:31])[H:30])[H:26])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11]>>[C:17]([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([H:4])([H:5])[C:16]([C:15]([C:14]([H:21])([H:22])[H:23])([H:24])[H:25])([N:18]([C:19](=[O:20])[H:31])[H:30])[H:26])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11],70.9562969795661
4227,[C:1]([O:2][C:3]([O:4])([C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])[C:18]([C:17]([C:16]([H:23])([H:24])[H:25])([H:26])[H:27])([C:19]([H:28])([H:29])[H:30])[C:20](=[O:21])[O:22][H:31])([H:8])([H:9])[H:10]>>[C:1]([O:2])([H:8])([H:9])[H:10].[C:3](=[O:4])([C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])[C:18]([C:17]([C:16]([H:23])([H:24])[H:25])([H:26])[H:27])([C:19]([H:28])([H:29])[H:30])[C:20](=[O:21])[O:22][H:31],22.42103006702382
395,[C:4](=[C:5]([N:6]([C:7](=[O:8])[H:13])[H:12])[H:11])([H:9])[H:10].[O:1]([O:2])[H:3]>>[C:4](=[C:5][N:6]([C:7](=[O:8])[H:13])[H:12])([H:9])[H:10].[O:1]([O:2][H:11])[H:3],30.81120864121476
3176,[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])([H:8])[H:9].[C:21]([C:22]([C:23]([C:24]([H:34])([H:35])[H:36])[C:25](=[O:26])[O:27][C:28]([H:37])([H:38])[H:39])([H:32])[H:33])([H:29])([H:30])[H:31]>>[C:1]([H:7])([H:8])([H:9])[H:33].[C:21]([C:22](=[C:23]([C:24]([H:34])([H:35])[H:36])[C:25](=[O:26])[O:27][C:28]([H:37])([H:38])[H:39])[H:32])([H:29])([H:30])[H:31].[C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11],82.87363366089994
2464,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8](=[C:9]([N:10]([C:11](=[O:12])[H:17])[H:16])[H:15])([H:13])[H:14]>>[C:1](=[C:2]([H:3])[H:4])([H:6])[H:7].[H:5][C:9]([C:8]([H:13])[H:14])([N:10]([C:11](=[O:12])[H:17])[H:16])[H:15],39.06144802318886
3969,[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[C:6](=[O:7])[O:8][C:9]([H:21])([H:22])[H:23])([H:13])[H:14])([H:10])([H:11])[H:12].[C:24]([H:25])([H:26])[H:27]>>[C:1]([C:2]([C:3]([C:5]([H:18])([H:19])[H:20])[C:6](=[O:7])[O:8][C:9]([H:21])([H:22])[H:23])([H:13])[H:14])([H:10])([H:11])[H:12].[C:4]([H:15])([H:16])([H:17])[C:24]([H:25])([H:26])[H:27],49.44911116699223
